US04983755
Ethyl 3-[1-(4-chlorophenyl)-2,2-dimethylpropylidene]carbazate
A solution of 4.92 g (0.025 mol) 4-chlorphenyl tert.-butyl ketone and 8.05 g (0.075 mol) ethyl carbazate in 125 ml absolute ethanol was treated with ca. 0.3 g concentrated sulphuric acid and heated at reflux for 3 hours. The solution was then concentrated in vacuo and the residue added to water. It was then extracted with ethyl acetate, the organic phase dried with magnesium sulphate, concentrated and the residue recrystallised from diisopropyl ether.

reactant | 4-chlorphenyl tert.-butyl ketone | 0.025 mol, 4.92 g | C(C)(C)(C)C(=O)C1=CC=C(C=C1)Cl | C11H13ClO
reactant | ethyl carbazate | 0.075 mol, 8.05 g | C(NN)(=O)OCC | C3H8N2O2
reactant | sulphuric acid | ca. 0.3 g | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | Ethyl 3-[1-(4-chlorophenyl)-2,2-dimethylpropylidene]carbazate | ClC1=CC=C(C=C1)C(C(C)(C)C)=NNC(=O)OCC | C14H19ClN2O2
